US04960883
Epichlorohydrin (0.5 g) and 3.7 g of 1-benzenesulfonylpiperazine were reacted and worked up in the same way as in Referential Example 1 to give 1.7 g of 1-benzenesulfonyl-4-(3-chloro-2-hydroxypropyl)piperazine as a colorless powdery crystal having a melting point of 136 to 137° C.

reactant | Epichlorohydrin | 0.5 g | C(Cl)C1CO1 | C3H5ClO
reactant | 1-benzenesulfonylpiperazine | 3.7 g | C1(=CC=CC=C1)S(=O)(=O)N1CCNCC1 | C10H14N2O2S
product | 1-benzenesulfonyl-4-(3-chloro-2-hydroxypropyl)piperazine | 1.7 g | C1(=CC=CC=C1)S(=O)(=O)N1CCN(CC1)CC(CCl)O | C13H19ClN2O3S
